US04089860
Preparation of 1,3-dimethyl-5-(methoxycarbonyl-methylene)-hydantoin:
44 g of N,N'-dimethylurea were dissolved in 150 g of o-dichlorobenzene and reacted with 72 g of dimethylmaleate for 2 hours at 180°-185° C after the addition of 25 g of cresol. The solvent was removed from this reaction mixture and the residue was fractionated under vacuum, 85 g (= 85% of the theory) of the desired product distilling over at 0.07 Torr and 128° C. A purified product melting at 49.5° C could be obtained by dissolving the crude product in chloroform and reprecipitating it with ether. The structure of the purified product was confirmed by IR and NMR spectra and by elementary analysis.

reactant | N,N'-dimethylurea | 44 g | CNC(=O)NC | C3H8N2O
reactant | dimethylmaleate | 72 g | C/C(=C(/C(=O)[O-])\C)/C(=O)[O-]
reactant | cresol | 25 g | C1(=CC=CC=C1O)C | C7H8O
solvent | o-dichlorobenzene | 150 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,3-dimethyl-5-(methoxycarbonyl-methylene)-hydantoin | CN1C(=O)N(C(=O)C1=CC(=O)OC)C | C8H10N2O4
